US05527934
In the same apparatus and procedures as EXAMPLE 1, 18.5 g (0.084 mole) of 3-(phenyl)-1,1-dichloro-1-silabutane and 90 μl of 1% chloroplatinic acid solution in isopropanol were placed and then 5.0 g (0.038 mole) of divinylbenzene was added dropwise for 10 min. The solution was reacted for 6 hours at room temperature under the dry nitrogen atmosphere. Vacuum distillation gave 15.2 g (186°-188° C./0.03 mmHg) of bis{(2-phenylpropyl)dichlorosilyl}diethylbenzene in 70.4% yield.

reactant | 3-(phenyl)-1,1-dichloro-1-silabutane | 0.084 mole, 18.5 g | C1(=CC=CC=C1)C(C[SiH](Cl)Cl)C | C9H12Cl2Si
reactant | divinylbenzene | 0.038 mole, 5.0 g | C(=C)C1=C(C=CC=C1)C=C | C10H10
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 90 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | bis{(2-phenylpropyl)dichlorosilyl}diethylbenzene | 15.2 g, 70.4% yield | C1(=CC=CC=C1)C(C[Si](Cl)(Cl)C1=C(C(=C(C=C1)CC)CC)[Si](CC(C)C1=CC=CC=C1)(Cl)Cl)C | C28H34Cl4Si2
